US07888364B2
40 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 2-(benzylamino)ethanol via Procedure G. The crude product was purified on reverse phase HPLC to yield N4-benzyl-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(2-hydroxyethyl)terephthalamide. MS (Q1) 520 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 40 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | 2-(benzylamino)ethanol | C(C1=CC=CC=C1)NCCO | C9H13NO
product | N4-benzyl-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(2-hydroxyethyl)terephthalamide | C(C1=CC=CC=C1)N(C(C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl)=O)CCO | C28H23Cl2N3O3
